US07902200B2
Azetidin-1-yl-(5,6-dichloropyridin-3-yl)methanone
5,6-Dichloropyridine-3-carboxylic acid (CAS no. 41667-95-2) (32 g, 0.17 mol) was suspended in DCM (500 mL) and 1M HCl in ether (0.17 L, 0.17 mol) added. Oxalyl chloride (17 mL, 0.20 mol) and then DMF (2 drops) were added and stirred at room temperature for 16 hours. The reaction mixture was concentrated under reduced pressure, azeotroped with toluene and re-dissolved into DCM (250 mL). Azetidine hydrochloride (17.5 g, 0.18 mol) was added, followed by triethylamine (51 mL, 0.37 mol) and the reaction stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure then water (500 mL) and ethyl acetate (500 mL) were added. The organic layer was separated and the aqueous phase was re-extracted with ethyl acetate (5×150 mL). The combined organics were washed with citric acid (250 mL), saturated sodium bicarbonate solution (250 mL), brine (250 mL), dried (MgSO4), filtered and evaporated under reduced pressure to give a solid which was recrystallised in ethyl acetate and dried under reduced pressure to give the product (18.2 g, 47%). 1H NMR δ (400 MHz, CDCl3) 2.34 (quintet, 2H), 4.20 (s, 2H), 4.27 (s, 2H), 8.02 (d, 1H), 8.44 (d, 1H); m/z 231 (M+H)+.

reactant | 5,6-Dichloropyridine-3-carboxylic acid | ClC=1C=C(C=NC1Cl)C(=O)O | C6H3Cl2NO2
reactant | HCl | 1M | Cl | ClH
reactant | ether | 0.17 mol, 0.17 L | CCOCC | C4H10O
reactant | Oxalyl chloride | 0.20 mol, 17 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Azetidine hydrochloride | 0.18 mol, 17.5 g | Cl.N1CCC1
reactant | triethylamine | 0.37 mol, 51 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | Azetidin-1-yl-(5,6-dichloropyridin-3-yl)methanone | 18.2 g, 47% | N1(CCC1)C(=O)C=1C=NC(=C(C1)Cl)Cl | C9H8Cl2N2O
